US05210205
b) Preparation of 2-methoxymethyl-4-methylthiazole-5-carboxylic acid
6.7 g of 85% potassium hydroxide in 100 ml of ethanol are added at room temperature to 22.1 g of 2-methoxymethyl-4-methylthiazole-5-carboxylic acid ethyl ester and the reaction mixture is then heated under reflux for 18 hours. After cooling, the ethanol is evaporated off and the residue is dissolved in 200 ml of water. After stirring with active carbon, the mixture is filtered over Hyflo and the filtrate is acidified with concentrated hydrochloric acid with vigorous stirring. The resulting yellowish crystals are filtered off, washed with water and dried. After recrystallisation from tetrahydrofuran/petroleum ether (30°-45° C.) (=10:1) the yellowish crystals melt at 168°-169.5° C.

reactant | potassium hydroxide | 6.7 g | [OH-].[K+]
reactant | 2-methoxymethyl-4-methylthiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C(S1)COC)C | C9H13NO3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-methoxymethyl-4-methylthiazole-5-carboxylic acid | COCC=1SC(=C(N1)C)C(=O)O | C7H9NO3S
